US04595753
Preparation of 3,3-Dimethylbutyl Diphenyl Phosphine
As a known compound, t-butylethyl, (i.e., 3,3-dimethylbutyl)diphenyl phosphine was also synthesized via the known displacement approach: the reaction of lithium diphenyl phosphide with 3,3-dimethylbutyl chloride provided the compound in good yield.

reactant | diphenyl phosphine | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | 3,3-dimethylbutyl chloride | CC(CCCl)(C)C | C6H13Cl
product | 3,3-Dimethylbutyl Diphenyl Phosphine | CC(CCP(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C18H23P
